US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine
Prepare by the method of 6.6.2 using 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine and 4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine to give the title compound.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO6S
reactant | 4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidine | C(C)OCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C17H23N3O2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(2-ethoxy-ethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H46Cl2N4O6
